US07858646B2
Synthesis of 5-(4-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio)nicotinonitrile
Using the method of Preparation 160 using 5-(4-(hydroxymethyl)phenylthio) nicotinonitrile (1.20 g, 4.95 nmol) and 1-(2,4-dihydroxy-3-propylphenyl)ethanone (1.01 g, 5.20 mmol) affords the title compound. MS (APCI-neg) m/z (rel intensity): 417 (M−H, 100%).

reactant | 5-(4-(hydroxymethyl)phenylthio) nicotinonitrile | 4.95 nmol, 1.20 g | OCC1=CC=C(C=C1)SC=1C=NC=C(C#N)C1 | C13H10N2OS
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 5.20 mmol, 1.01 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
product | 5-(4-((4-acetyl-3-hydroxy-2-propylphenoxy)methyl)phenylthio)nicotinonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)SC=2C=NC=C(C#N)C2)C=C1)CCC)O | C24H22N2O3S
